US05506219
Methyl acetoacetate (324 mg, 2.79 mmol) was added dropwise to a slurry of NaH (60% in mineral oil, 111.7 mg, 2.79 mmol) in dry THF (7 ml) at 0° C. After 15 minutes, n-BuLi (1.5M in hexanes, 1.46 ml, 2.19 mmol) was added and the mixture was stirred an additional 15 minutes. Addition of a solution of (E)-3-[4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinyl]-2-propenal (633 mg, 1.99 mmol) in THF (7 ml) to the reaction mixture resulted in the formation of a bright red solution. Twenty minutes after the addition, the solution was poured into a biphasic mixture of Et2O (40 ml) and 1N HCl (5.5 ml) in H2O (20 ml). The aqueous layer was made basic with saturated NaHCO3 and the phases were separated. The aqueous layer was extracted again with Et2O, neutralized with 1N HCl and extracted once more. The combined Et2O layers were washed with brine, dried (Na2SO4), filtered and stripped to yield an oil. Flash chromatography (Merck SiO2, 1:1 EtOAc:hexane) afforded (E)-7-[4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinyl]-5-hydroxy-3-oxo-6-heptenoic acid, methyl ester (251 mg, 29%) as a yellow oil

reactant | Methyl acetoacetate | 2.79 mmol, 324 mg | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 2.79 mmol, 111.7 mg | [H-].[Na+]
reactant | n-BuLi | 2.19 mmol, 1.5M, 1.46 ml | [Li]CCCC
reactant | (E)-3-[4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinyl]-2-propenal | 1.99 mmol, 633 mg | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C)/C=C/C=O | C21H16FNO
reactant | HCl | 1N, 5.5 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | H2O | 20 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Et2O | 40 ml | CCOCC | C4H10O
product | (E)-7-[4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinyl]-5-hydroxy-3-oxo-6-heptenoic acid, methyl ester | 251 mg, 29% | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C)/C=C/C(CC(CC(=O)OC)=O)O | C26H24FNO4
